US09238639B2
A) Methyl 4-((3,5-dihydroxyphenyl)sulfanyl)-3-oxobutanoate
To a mixture of 5-sulfanylbenzene-1,3-diol (12.2 g) and DMF (dry) (100 mL) was added methyl 4-chloroacetoacetate (10.0 mL) at room temperature, and the mixture was stirred at 70° C. for 4 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with 1N HCl and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (15.1 g).

reactant | 5-sulfanylbenzene-1,3-diol | 12.2 g | SC=1C=C(C=C(C1)O)O | C6H6O2S
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | methyl 4-chloroacetoacetate | 10.0 mL | ClCC(CC(=O)OC)=O | C5H7ClO3
solvent | water | O | H2O
product | Methyl 4-((3,5-dihydroxyphenyl)sulfanyl)-3-oxobutanoate | 15.1 g | OC=1C=C(C=C(C1)O)SCC(CC(=O)OC)=O | C11H12O5S
